US09102591B2
A mixture of 5-bromo-2-trifluoromethyl-pyrimidine (1.0 g, 4.41 mmol) and cyano-acetic acid ethyl ester (1.0 g, 4.41 mmol) was added into a suspension of t-BuOK (17.64 mL, 17.64 mmol, 1M in THF) in 1,4-dioxane (10 mL) under Ar atmosphere. To the resulting mixture was added a solution of Pd(OAc)2 (10 mg, 44.1 μmol) and dppf (48.9 mg, 88.2 μmol) in 1,4-dioxane (1 mL). The resulting mixture was heated to 70° C. for 1 h. The reaction mixture was adjusted pH to 7˜8 with 1N AcOH and extracted with EtOAc (3×20 ml). The organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography on silica gel (EtOAc:petroleum ether=1:10) to give cyano-(2-trifluoromethyl-pyrimidin-5-yl)-acetic acid ethyl ester (140 mg, yield: 12.3%). 1H NMR (CDCl3 400 Hz): δ9.03 (s, 2H), 4.88 (s, 1H), 4.34 (q, J=7.2 Hz, 2H), 1.35 (t, J=7.2 Hz, 3H).

reactant | 5-bromo-2-trifluoromethyl-pyrimidine | 4.41 mmol, 1.0 g | BrC=1C=NC(=NC1)C(F)(F)F | C5H2BrF3N2
reactant | cyano-acetic acid ethyl ester | 4.41 mmol, 1.0 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | t-BuOK | 17.64 mmol, 1M, 17.64 mL | CC(C)(C)[O-].[K+]
reactant | AcOH | 1N | CC(=O)O | C2H4O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 44.1 μmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppf | 88.2 μmol, 48.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | cyano-(2-trifluoromethyl-pyrimidin-5-yl)-acetic acid ethyl ester | 140 mg, yield: 12.3% | C(C)OC(C(C=1C=NC(=NC1)C(F)(F)F)C#N)=O | C10H8F3N3O2
